US04224344
A mixture of β-(9,10-dihydro-9,10-methano-9-anthryl)propionitrile (250 mg) and lithium aluminum hydride (100 mg) in dioxane (12 ml) was stirred at 60° C. for 5 hours. Excess lithium aluminum hydride was decomposed by addition of water. The reaction mixture was diluted with ethyl acetate, dried over anhydrous sodium sulfate and evaporated to dryness to give 9-γ-aminopropyl-9,10-dihydro-9,10-methanoanthracene, which was converted into its hydrochloride. M.P. 275° C. (decomp.).

reactant | β-(9,10-dihydro-9,10-methano-9-anthryl)propionitrile | 250 mg | C1=CC=CC=2C3C4=CC=CC=C4C(C12)(C3)CCC#N | C18H15N
reactant | lithium aluminum hydride | 100 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
solvent | dioxane | 12 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 9-γ-aminopropyl-9,10-dihydro-9,10-methanoanthracene | NCCCC12C3=CC=CC=C3C(C=3C=CC=CC13)C2 | C18H19N
